US03996374
A solution of 28.5 g. of 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one in 400 ml. of dimethylformamide is treated under nitrogen at -10° C. with 0.25 mol. of sodium hydride (11.0 g. of a 55% dispersion in mineral oil) and stirred at the same temperature for 15 minutes. The suspension is then treated at -10° C. to -5° C. with a solution of 35.5 g. of diethylcarbonate in 50 ml. of dimethylformamide. The mixture is stirred firstly for 1 hour at 20° C., then for an additional 4 hours at 60° C. and finally poured onto a mixture of 100 g. of sodium chloride and 2.5 kg. of ice. The precipitate is removed by filtration, washed with water and dissolved in methylene chloride. The organic solution, shielded from daylight, is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated to dryness. The crystalline residue is heated to reflux with 500 ml. of ethanol for 10 minutes and then cooled in an ice-bath. After filtering and washing with ethanol and ether, there is obtained 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester in the form of greenish crystals; melting point 208°-210° C. (decomposition). Crystallization from acetonitrile does not increase the melting point.

reactant | 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
reactant | sodium hydride | [H-].[Na+]
reactant | diethylcarbonate | C(C)OC(OCC)=O | C5H10O3
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C17H14ClNO2
